US08541411B2
b) 1-[(3-chloro-2-methylphenyl)methyl]-2-(difluoromethyl)-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid
A solution of methyl 1-(2,3-dichlorobenzyl)-2-(difluoromethyl)-6-morpholino-1H-benzo[d]imidazole-4-carboxylate (1045 mg, 2.3 mmol) in THF (40 mL) was added into 2 N LiOH (20 mL) and the mixture was stirred at 45° C. for 4 h. It was filtered, the filter cake was added to water (100 mL) and formic acid was added to adjust pH=3. Then a filtration was performed, the filter cake was collected and washed with water (200 mL), dried under vacuum to give the desired product (800 mg, 80%) as a yellow solid. 1H NMR (300 MHz, DMSO-d6): δ ppm 2.46 (s, 3H), 3.13 (t, 4H, J=4.8 Hz), 3.73 (t, 4H, J=4.8 Hz), 3.92 (s, 3H), 5.70 (s, 2H), 6.00 (d, 1H, J=7.5 Hz), 7.04 (t, 1H, J=7.5 Hz), 7.23 (d, 1H, J=1.8 Hz), 7.34 (t, 1H, J=7.5 Hz), 7.36 (t, 1H, J=51.9 Hz), 7.57 (d, 1H, J=1.8 Hz), 12.96 (br s, 1H); LC-MS: m/e=436 [M+1]+

reactant | methyl 1-(2,3-dichlorobenzyl)-2-(difluoromethyl)-6-morpholino-1H-benzo[d]imidazole-4-carboxylate | 2.3 mmol, 1045 mg | ClC1=C(CN2C(=NC3=C2C=C(C=C3C(=O)OC)N3CCOCC3)C(F)F)C=CC=C1Cl | C21H19Cl2F2N3O3
reactant | LiOH | 2 N, 20 mL | [Li+].[OH-]
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-[(3-chloro-2-methylphenyl)methyl]-2-(difluoromethyl)-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid | 800 mg, 80% | ClC=1C(=C(C=CC1)CN1C(=NC2=C1C=C(C=C2C(=O)O)N2CCOCC2)C(F)F)C | C21H20ClF2N3O3
